US09085555B2
E. (2R,5S)-2-(Acetylamino-methyl)-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester
To a solution of (2R,5S)-2-aminomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (200 mg), and Et3N (77 μL, 0.55 mmol) in CH2Cl2 (3 mL) was added under nitrogen atmosphere at 0° C. acetyl chloride (39 μL, 0.55 mmol) and the mixture was stirred at 0° C. for 1 h. CH2Cl2 and 1N aqueous HCl were added, the layers were separated and the aqueous one back-extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc gradient 100:0 to 0:100) to give the title compound. MS (LC/MS): 480.1 [M+H]+; tR (HPLC conditions b): 4.69 min.

reactant | (2R,5S)-2-aminomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 200 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CN | C21H22F3N3O4
reactant | Et3N | 0.55 mmol, 77 μL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.55 mmol, 39 μL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (2R,5S)-2-(Acetylamino-methyl)-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CNC(C)=O | C23H24F3N3O5
